US04439425
0.2 g of N-palmitoyl-S-[2-(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine benzhydryl ester is dissolved at room temperature in a mixture of 0.4 ml of trifluoroacetic acid and 1.6 ml of methylene chloride and the mixture is allowed to react for 2 hours. The mixture is evaporated to dryness under reduced pressure, the residue is dissolved in chloroform and the chloroform layer is extracted several times with water. After drying with sodium sulfate and evaporation of the solvent there is obtained a crystalline residue, which is dissolved in 2 ml of hot petroleum ether. After addition of 2 ml of ligroin the solution is cooled to -10° and there are obtained crystals of the N-palmitoyloxy-S-[2(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine of melting point 80°-83°.

reactant | N-palmitoyl-S-[2-(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine benzhydryl ester | 0.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSCC(CCCCCCCCCCCCCCCC)OC(CCCCCCCCCCCCCCC)=O)=O | C66H113NO5S
solvent | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.6 ml | C(Cl)Cl | CH2Cl2
product | N-palmitoyloxy-S-[2(R,S)-palmitoyloxyoctadecyl]-(L)-cysteine | C(CCCCCCCCCCCCCCC)(=O)ON[C@@H](CSCC(CCCCCCCCCCCCCCCC)OC(CCCCCCCCCCCCCCC)=O)C(=O)O | C53H103NO6S
